US07893258B2
Preparation of 2-(4-propyl-heptyl)-oxirane
To a 250 ml flask containing 6-propylnon-1-ene (4 g, 23.76 mmol, purified by distillation) and anhydrous dichloromethane (260 mL) under nitrogen atmosphere, was added at 0° C. meta-chloroperoxybenzoic acid (77%, 10.65 g, 47.53 mmol, 2 eq) and the reaction was stirred for 20 minutes at 0° C. before warming to room temperature. The disappearance of starting material is monitored by TLC. The reaction was evaporated almost to dryness and cyclohexane (260 ml) was added and the remaining solid in the flask was extracted several times with cyclohexane. The combined organic phases were then washed with saturated aqueous sodium bicarbonate (5×25 mL). After evaporation of the solvent, the crude was purified by column chromatography (eluent dichloromethane) to give the desired product (3.86 g, 88%) as a colourless oil.

reactant | 6-propylnon-1-ene | 23.76 mmol, 4 g | C(CC)C(CCCC=C)CCC | C12H24
reactant | meta-chloroperoxybenzoic acid | 47.53 mmol, 10.65 g, 2 eq | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 260 mL | ClCCl | CH2Cl2
product | 2-(4-propyl-heptyl)-oxirane | 3.86 g, 88% | C(CC)C(CCCC1OC1)CCC | C12H24O
